US07312335B2
An oven-dried flask was charged with β-keto methyl ester (1.0 mmol), Bu2SnO (26 mg, 0.1 mmol, 0.1 eq.), tBuOH (5 mL) and toluene (15 mL). The flask was connected a Dean-Star trap which continuingly removed methanol while refluxing. tBuOH (2 mL) was added when the mixture of alcohols and toluene was released through Dean-Star trap. The mixture was refluxed for 4 hours. The resultant yellow solution was concentrated on a water evaporator. The residue was directly loaded on silica gel column for purification (hexanes/EtOAc 20/1) to give β-keto tButylester (80-84% yield) as a white solid (6-methoxyindanone) and a purple solid (5-chloroindanone), respectively. For 5-chloroindanone ester (84%) 22D: 1H NMR (CDCl3, 400 MHz) (85% keto ester form): δ ppm 7.68 (d, J=8.0 Hz, 1H), 7.49 (s, 1H), 7.36 (d, J=8.0 Hz, 1H), 3.63 (dd, J=8.0, 4.0 Hz, 1H), 3.48 (dd, J=17.2, 4.0 Hz, 1H), 3.31 (dd, J=17.2, 4.0 Hz, 1H), 1.49 (s, 9H). (15% enol form): δ ppm 10.25 (br s, 1H), 7.53 (d, J=7.6 Hz, 1H), 7.42 (s, 1H), 7.35 (d, J=7.6 Hz, 1H), 3.46 (s, 2H), 1.57 (s, 9H). 3C NMR (CDCl3, 100 MHz) (keto and enol forms): δ ppm 198.46, 167.85, 155.07, 141.77, 133.88, 128.50, 127.18, 126.70, 125.59, 125.01, 121.38, 82.28, 54.39, 32.71, 29.99, 28.42, 27.96. FT-IR (ν, cm−1): 2980 (m), 2933 w), 1716 (s, with a shoulder at 1745), 1649 (m), 1601 (m), 1369 (m), 1260 (m), 1154 (s). For 6-methoxyindanone ester (80%) 22C: 1H NMR (CDCl3, 400 MHz) (90% keto ester form): δ ppm 7.38 (d, J=8.0 Hz, 1H), 7.20 (m, 2H), 3.83 (s, 3H), 3.64 (dd, J=8.0, 3.6 Hz, 1H), 3.40 (dd, J=16.8, 3.6 Hz, 1H), 3.26 (dd, J=16.8, 8.0 Hz, 1H), 1.49 (s, 9H). (10% enol form): δ ppm 10.52 (br s, 1H), 7.32 (d, J=8.4 Hz, 1H), 7.13 (d, J=2.0 Hz, 1H), 6.96 (dd, J=8.4, 2.0 Hz, 1H), 3.85 (s, 3H), 3.40 (s, 2H), 1.57 (s, 9H). 13C NMR (CDCl3, 100 MHz) (keto and enol forms): δ ppm 199.94, 168.32, 159.53, 146.53, 136.56, 127.11, 124.64, 105.48, 81.92, 55.53, 55.04, 29.62, 28.41, 27.94. FT-IR (ν, cm−1): 2980 (m), 1709 (s, with a shoulder at 1740), 1645 (m), 1494 (m), 1277 (m), 1149 (s), 1028 (m).

reactant | tBuOH | 5 mL | CC(C)(C)O | C4H10O
reactant | methanol | CO | CH4O
reactant | tBuOH | 2 mL | CC(C)(C)O | C4H10O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 6-methoxyindanone | 80-84% yield | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
